US07846923B2
5. 3-(9-Ethyl-8-oxo-8,9-dihydro-3H-3,4,9-triaza-cyclopenta[a]naphthalen-7-yl)-5-methoxy-benzoic acid
Acetic anhydride (0.123 mL, 1.3 mmol) is added to (3-(9-ethyl-8-imino-8,9-dihydro-3H-3,4,9-triaza-cyclopenta[a]naphthalen-7-yl)-5-methoxy-benzoic acid ethyl ester (100 mg, 0.26 mmol) in sealed tube and heated at 120° C. for 2.5 hr. The acetic anhydride is evaporated and 6N HCl (3 mL) is added and the mixture is again heated at 105° C. for 1 hr. The reaction mixture is brought to room temperature and poured in ice cold water. The acid is crystallized out and filtered. It is washed with water and dried to give the desired product. MS m/z 364.2 (M+1).

reactant | Acetic anhydride | 1.3 mmol, 0.123 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(9-ethyl-8-imino-8,9-dihydro-3H-3,4,9-triaza-cyclopenta[a]naphthalen-7-yl)-5-methoxy-benzoic acid ethyl ester | 0.26 mmol, 100 mg | C(C)OC(C1=CC(=CC(=C1)OC)C1=CC2=CN=C3C(=C2N(C1=N)CC)C=CN3)=O | C22H22N4O3
product | 3-(9-Ethyl-8-oxo-8,9-dihydro-3H-3,4,9-triaza-cyclopenta[a]naphthalen-7-yl)-5-methoxy-benzoic acid | C(C)N1C(C(=CC2=CN=C3C(=C12)C=CN3)C=3C=C(C(=O)O)C=C(C3)OC)=O | C20H17N3O4
